2150-11-30 08:00:00 Physician Resident Progress Note
Chief Complaint: respiratory failure, septic shock
   24 Hour Events:
   -intubated for respiratory failure in the setting of tachypnea &
   profound acidemia
   -L radial A-line placed
   -CT abd/pelvis with PO contrast ordered
   -started stress-dose steroids given h/o panhypopit (random cortisol
   5.6)
   -R IJ CVL placed
   -started on levo gtt
   -PO vanc started for empiric Rx severe c. diff
   -renal deferring RRT at this time but will follow
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2150-11-30**] 04:19 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2150-11-29**] 09:00 PM
   Dextrose 50% - [**2150-11-29**] 09:44 PM
   Meperidine (Demerol) - [**2150-11-29**] 11:01 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2150-11-30**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2150-11-30**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 38.8
C (101.8
   HR: 86 (78 - 125) bpm
   BP: 104/67(80) {96/62(-18) - 107/67(80)} mmHg
   RR: 27 (7 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (11 - 13)mmHg
   Total In:
                                                                  7,884 mL
                                                                  5,482 mL
   PO:
   TF:
   IVF:
                                                                  1,834 mL
                                                                  5,382 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    855 mL
   Urine:
                                                                    855 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,884 mL
                                                                  4,627 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.31/23/179/9/-12
   Ve: 14.4 L/min
   PaO2 / FiO2: 358
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: both bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   185 K/uL
   11.8 g/dL
   91 mg/dL
   5.9 mg/dL
   9 mEq/L
   5.4 mEq/L
   86 mg/dL
   114 mEq/L
   139 mEq/L
   34.3 %
   9.4 K/uL
        [image002.jpg]
                            [**2150-11-29**]  07:48 PM
                            [**2150-11-30**]  02:28 AM
                            [**2150-11-30**]  03:09 AM
                            [**2150-11-30**]  05:23 AM
   WBC
   9.4
   Hct
   34.3
   Plt
   185
   Cr
   5.8
   5.9
   TropT
   0.31
   0.34
   TCO2
   10
   12
   Glucose
   31
   91
   Other labs: PT / PTT / INR:11.9/39.8/1.0, CK / CKMB /
   Troponin-T:1031/15/0.34, ALT / AST:31/65, Alk Phos / T Bili:38/0.3,
   Lactic Acid:0.6 mmol/L, Albumin:3.7 g/dL, Ca++:7.1 mg/dL, Mg++:1.7
   mg/dL, PO4:6.0 mg/dL
   Imaging: [**2150-11-29**] portable CXR
   UPRIGHT AP VIEW OF THE CHEST: Study is limited due to patient's
   respiratory
   motion during the exam. The patient appears to be status post median
   sternotomy and CABG. The cardiac silhouette is mildly enlarged, which
   is
   grossly stable. The mediastinal and hilar contours are unchanged.
   Pulmonary
   vascularity is normal. No gross focal consolidation, pleural effusion
   or
   pneumothorax is seen. The osseous structures appear unremarkable.
   IMPRESSION:
   Slightly limited study due to respiratory motion. No acute
   cardiopulmonary
   abnormality.
   Microbiology: [**2150-11-29**] 8:23 pm STOOL     CONSISTENCY: LOOSE
   Source: Stool.
      FECAL CULTURE (Pending):
      CAMPYLOBACTER CULTURE (Pending):
      CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2150-11-30**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   [**Date range (1) 10657**] Urine Cx NGTD
   [**Date range (1) 10657**] Blood Cx NGTD
   Assessment and Plan
   56M with CAD s/p CABG presenting with 3 days of vomiting and diarrhea
   admitted with shock, respiratory failure, and acute on chronic renal
   insufficiency.
   #Shock
 low-dose pressor requirement; likely sepsis with a GI source
   given that CVP reflects some degree of intravascular euvolemia; low
   random cortisol level reflects adrenal insufficiency
   -levophed titrated to MAP>65
   -IVF to goal CVP 10-12
   -abd/pelvis CT scan
   -cont stress-dose steroids
   -f/u urine, blood, stool Cx
   -will switch fluids to D5 with bicarb per renal
   -broaden antibiotics
   -consider LP given delirium
   .
   #Respiratory failure
   -cont full support with high minute ventilation to help correct
   underlying acidemia
   -daily CXR
   .
   #Positive cardiac biomarkers - most attributable to
   subendocardial/demand ischemia in the setting of obstructive CAD,
   systemic illness, hypotension, and decreased renal clearance; no
   dynamic EKG changes to warrant heparin/plavix therapy
   -appreciate cards recs
   -cont ASA, statin
   -cycle cardiac biomarkers until peak
   -continue to cycle enzymes to make sure that they trend down
   .
   #Vomiting/diarrhea
 high fevers suggest a viral process but severity
   of disease invokes possible C. diff (despite 1 toxin assay being
   negative
   -switch to vanc, cefepime, IV flagyl, po vanc
   -repeat c. diff toxin x 2
   -f/u stool Cx
   -oseltamivir/rimantadine & droplet precautions pending negative NP swab
   for influenza
   .
   #Anion gap metabolic acidosis - most attributable to acute kidney
   injury and, to a lesser extent, profuse diarrhea; lactate, glucose WNL
   -appreciate renal involvement, will readdress need for RRT
   -D5W+3amps bicarb @ 200 cc x 2L
   -cont trend bicarb, venous pH with fluid resuscitation
   -No further LR, switch to D5W + 150meq bicarb
   .
   #Acute on chronic renal insufficiency
 non-oliguric; history points to
   pre-renal azotemia but FENa 2.6% is indeterminate and may reflect
   superimposed ATN from hypotension
   -cont trend with IVF
   -renally dose meds
   -foley catheter, monitor UOP
   -consider renal U/S if no improvement with fluids
   -f/u renal recs
   .
   #ETOH use - last drink [**11-26**]
   -valium CIWA
   -MVI, folate, thiamine
   .
   #Hypertension
   -cont hold lisinopril
   .
   # FEN: IVF / replete lytes / NPO
 nutrition c/s re TF
   # PPX: SQH, H2blocker
   # ACCESS: 16g, 20g x 2
   # CODE: Presumed FULL
   # CONTACT: [**Name (NI) **] [**Name (NI) 10658**], brother, [**Telephone/Fax (1) 10659**]; [**First Name4 (NamePattern1) 1828**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 10656**]
   # DISPO: ICU
   ICU Care
   Nutrition: NPO
 nutrition c/s re TF
   Lines:
   16 Gauge - [**2150-11-29**] 07:11 PM
   20 Gauge - [**2150-11-30**] 01:48 AM
   Arterial Line - [**2150-11-30**] 02:49 AM
   Multi Lumen - [**2150-11-30**] 05:00 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: H2blocker
   VAP:  bundle
   Code status: Full code
   Disposition: ICU

2150-11-30 11:52:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2150-11-30**] 12:00 AM
 INVASIVE VENTILATION - START [**2150-11-30**] 01:10 AM
 URINE CULTURE - At [**2150-11-30**] 01:38 AM
 ARTERIAL LINE - START [**2150-11-30**] 02:49 AM
 MULTI LUMEN - START [**2150-11-30**] 05:00 AM
 FEVER - 103.8
F - [**2150-11-30**] 01:00 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2150-11-30**] 04:19 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2150-11-29**] 09:00 PM
   Dextrose 50% - [**2150-11-29**] 09:44 PM
   Meperidine (Demerol) - [**2150-11-29**] 11:01 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2150-11-30**] 04:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2150-11-30**] 11:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.8
   Tcurrent: 37.9
C (100.3
   HR: 77 (76 - 125) bpm
   BP: 85/56(66) {85/56(-18) - 159/90(114)} mmHg
   RR: 26 (7 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (7 - 13)mmHg
   Total In:
                                                                  7,884 mL
                                                                  6,922 mL
   PO:
   TF:
   IVF:
                                                                  1,834 mL
                                                                  6,762 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,145 mL
   Urine:
                                                                  1,145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  7,884 mL
                                                                  5,777 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 26
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 18 cmH2O
   SpO2: 95%
   ABG: 7.31/29/94.[**Numeric Identifier 128**]/14/-10
   Ve: 14.4 L/min
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, No(t) Paralyzed,
   Tone: Normal
   Labs / Radiology
   9.5 g/dL
   156 K/uL
   207 mg/dL
   4.9 mg/dL
   14 mEq/L
   3.5 mEq/L
   77 mg/dL
   113 mEq/L
   142 mEq/L
   27.8 %
   8.9 K/uL
        [image002.jpg]
                            [**2150-11-29**]  07:48 PM
                            [**2150-11-30**]  02:28 AM
                            [**2150-11-30**]  03:09 AM
                            [**2150-11-30**]  05:23 AM
                            [**2150-11-30**]  09:51 AM
                            [**2150-11-30**]  10:33 AM
   WBC
   9.4
   8.9
   Hct
   34.3
   27.8
   Plt
   185
   156
   Cr
   5.8
   5.9
   4.9
   TropT
   0.31
   0.34
   TCO2
   10
   12
   15
   Glucose
   31
   91
   207
   Other labs: PT / PTT / INR:11.9/39.8/1.0, CK / CKMB /
   Troponin-T:1031/15/0.34, ALT / AST:31/65, Alk Phos / T Bili:38/0.3,
   Lactic Acid:0.6 mmol/L, Albumin:3.7 g/dL, Ca++:7.5 mg/dL, Mg++:1.5
   mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
 DIARRHEA
 HYPOTENSION (NOT SHOCK)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name **])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   60 yo male with CAD, hx pituitary resection admitted with fevers,
   diarrhea, shock, acidosis, with overnight course notable for
   development of acute respiratory failure requiring
   intubation/mechanical ventilation, persistent shock
   1. Shock: has distributive shock picture with sepsis and adrenal
   insufficiency, highest concern for GI source given symptoms of diarrhea
   *On pressors to maintain MAP>65
   *On hydrocortisone 100 mg IV q8h, add florinef
   *Given worsening clinical picture, will broaden antibiotics and add IV
   vanco/zosyn, dc cipro. Remains on po vanco/flagyl for possible CDiff
   colitis
   *oseltamivir/rimantadine and droplet precautions pending swab for
   influenza
   *CT abdomen; will f/u results
   *Consider LP if septic source is unclear
   2. Acute respiratory failure: remains mechanically ventilated with
   appropriate oxygenation/ventilation. Continue current vent settings.
   3. Acidosis: Has mixed AG and non-gap metabolic acidosis in the context
   of acute renal failure. On bicarb infusion to improve acidosis
   4. Cardiac enzyme elevations: mildly elevated, suspect more from demand
   ischemia rather than an acute thrombotic event. Will trend enzymes to
   ensure they resolve, otherwise no add'l acute management. On 'statin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2150-11-30**] 02:49 AM
   Multi Lumen - [**2150-11-30**] 05:00 AM
   20 Gauge - [**2150-11-30**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2150-12-01 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - weaned off levophed since 1300
   -fludrocortisone stopped as BP mildly elevated
   -CT abd/pelvis showed LLL consolidation, bilateral effusions, distended
   GB without e/o inflammation or stones, no biliary duct dilitations,
   known R adrenal adenoma, stranding around R kidney and small bowel
   (likely chronic inflammation)
   - Abdominal U/S performed, read pending
   - TTE showed EF of >55%, normal biventricular cavity sizes with
   preserved global and regional biventricular systolic function
   - Influenza DFA returned negative, tamiflu and ramantidine discontinued
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2150-11-30**] 12:36 PM
   Metronidazole - [**2150-12-1**] 04:09 AM
   Vancomycin - [**2150-12-1**] 04:09 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2150-11-30**] 08:45 PM
   Heparin Sodium (Prophylaxis) - [**2150-11-30**] 10:31 PM
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2150-12-1**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.4
C (97.5
   HR: 50 (47 - 83) bpm
   BP: 128/74(94) {85/56(66) - 163/91(118)} mmHg
   RR: 24 (9 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 97 kg (admission): 90.6 kg
   Height: 72 Inch
    CVP: 10 (6 - 15)mmHg
   Total In:
                                                                  9,331 mL
                                                                    457 mL
   PO:
   TF:
                                                                    120 mL
                                                                    179 mL
   IVF:
                                                                  8,961 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    395 mL
   Urine:
                                                                  1,815 mL
                                                                    395 mL
   NG:
                                                                    130 mL
   Stool:
   Drains:
   Balance:
                                                                  7,386 mL
                                                                     62 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 53.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.41/24/126/16/-6
   Ve: 12.3 L/min
   PaO2 / FiO2: 252
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, pinpoint pupils
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   upper lung fields, Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   159 K/uL
   9.1 g/dL
   139 mg/dL
   4.9 mg/dL
   16 mEq/L
   3.5 mEq/L
   86 mg/dL
   117 mEq/L
   147 mEq/L
   26.7 %
   8.8 K/uL
        [image002.jpg]
                            [**2150-11-30**]  03:09 AM
                            [**2150-11-30**]  05:23 AM
                            [**2150-11-30**]  09:51 AM
                            [**2150-11-30**]  10:33 AM
                            [**2150-11-30**]  04:34 PM
                            [**2150-11-30**]  05:28 PM
                            [**2150-11-30**]  10:20 PM
                            [**2150-12-1**]  01:47 AM
                            [**2150-12-1**]  03:44 AM
                            [**2150-12-1**]  03:51 AM
   WBC
   8.9
   7.5
   8.8
   Hct
   27.8
   26.5
   26.7
   Plt
   156
   153
   159
   Cr
   4.9
   4.9
   4.9
   TropT
   0.21
   0.20
   TCO2
   10
   12
   15
   16
   16
   15
   16
   Glucose
   [**Telephone/Fax (3) 10666**]
   Other labs: PT / PTT / INR:11.9/39.8/1.0, CK / CKMB /
   Troponin-T:510/11/0.20, ALT / AST:27/45, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.6 mmol/L, Albumin:3.7 g/dL, LDH:118 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:7.6 mg/dL
   Imaging: -CT abd/pelvis showed LLL consolidation, bilateral effusions,
   distended GB without e/o inflammation or stones, no biliary duct
   dilitations, known R adrenal adenoma, stranding around R kidney and
   small bowel (likely chronic inflammation)
   The left atrium is mildly dilated. Left ventricular wall thickness,
   cavity size and regional/global systolic function are normal (LVEF
   >55%). Right ventricular chamber size and free wall motion are normal.
   The aortic valve leaflets (3) are mildly thickened but aortic stenosis
   is not present. No aortic regurgitation is seen. The mitral valve
   appears structurally normal with trivial mitral regurgitation. There is
   no mitral valve prolapse. The estimated pulmonary artery systolic
   pressure is normal. There is no pericardial effusion.
   IMPRESSION: Normal biventricular cavity sizes with preserved global and
   regional biventricular systolic function. Mild aortic valve sclerosis.
   Microbiology:
   [**Date range (1) 10657**] c. diff toxin negative
[**11-29**] stool Cx pending
[**Date range (1) 10657**] blood Cx NGTD
[**11-30**] urine Cx NGTD
[**2150-11-29**] 3:50 pm Influenza A/B by DFA      NASAL SWAB.
                            **FINAL REPORT [**2150-11-30**]**
   DIRECT INFLUENZA A ANTIGEN TEST (Final [**2150-11-30**]):
      Negative for Influenza A.
   DIRECT INFLUENZA B ANTIGEN TEST (Final [**2150-11-30**]):
      Negative for Influenza B.
   Assessment and Plan
   56M with CAD s/p CABG presenting with 3 days of vomiting and diarrhea
   admitted with shock, respiratory failure, and acute on chronic renal
   insufficiency.
   #Shock
 off pressors <24 hrs; fever, hemodynamics, and acidemia
   improving; suspect sepsis from a GI source given presenting symptoms in
   addition to possible PNA as evidenced by LLL consolidation on CT, and
   adrenal insufficiency; cardiogenic shock unlikely given TTE findings
   -IVF to maintain CVP 10-12
   -cont broad-spectrum ABX, severe c. diff cov
g (pending 3^rd negative
   toxin assay)
   -f/u final abd/pelvis CT scan
   -cont stress-dose steroids
   -send ET sputum sample
   -f/u pending Cx data
   .
   #Respiratory failure
 underlying metabolic acidosis improving
   -hold sedation to evaluate readiness for PSV trial
   -daily CXR
   .
   #Positive cardiac biomarkers
 enzymes trending down; most attributable
   to subendocardial/demand ischemia in the setting of obstructive CAD,
   systemic illness, hypotension, and decreased renal clearance; no
   dynamic EKG changes to warrant heparin/plavix therapy
   -appreciate cards recs
   -cont ASA, statin
   .
   #Vomiting/diarrhea
 high fevers suggest a viral process but severity
   of disease invokes possible C. diff (despite 2 toxin assays being
   negative; NP DFA swab negative for influenza, antiviral therapy d/c
   -abx as above
   -send 3^rd c. diff toxin
   -f/u stool Cx
   .
   #Anion gap metabolic acidosis
 improving with volume resuscitation and
   treatment of underlying sepsis
   -appreciate renal involvement
   -no acute indication for RRT
   -cont [**Name2 (NI) 4198**] bicarb, venous pH
   .
   #Acute on chronic renal insufficiency
 non-oliguric; Cr improved
   slightly; history points to pre-renal azotemia but FENa 2.6% is
   indeterminate and may reflect superimposed ATN from hypotension
   -renally dose meds
   -foley catheter, monitor UOP
   -f/u renal U/S read
   -f/u renal recs
   .
   #ETOH use - last drink [**11-26**]
   -wean versed gtt
   -MVI, folate, thiamine
   .
   #Hypertension
   -restart lisinopril when Cr at baseline
   .
   # FEN: IVF / replete lytes / NPO
 nutrition c/s re TF
   # PPX: SQH, H2blocker
   # ACCESS: R IJ CVL, A-line, 20g PIV
   # CODE: FULL
   # CONTACT: [**Name (NI) **] [**Name (NI) 10658**], brother, [**Telephone/Fax (1) 10659**]; [**First Name4 (NamePattern1) 1828**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 10656**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-12-1**] 05:31 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2150-11-30**] 02:49 AM
   Multi Lumen - [**2150-11-30**] 05:00 AM
   20 Gauge - [**2150-11-30**] 11:21 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2150-12-02 07:43:00 Physician Resident Progress Note
Chief Complaint: septic shock
   24 Hour Events:
   - SBT terminated due to oversedation and periods of apnea, sedation
   discontinued
   - cdiff negative x3, d/c'd PO vanc, IV flagyl, contact precautions
   - endocrine consulted for panhypopituitarism
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2150-12-1**] 12:17 PM
   Cefipime - [**2150-12-1**] 01:00 PM
   Vancomycin - [**2150-12-1**] 04:00 PM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2150-12-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2150-12-1**] 10:00 PM
   Diazepam (Valium) - [**2150-12-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2150-12-2**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 72 (51 - 77) bpm
   BP: 125/71(89) {105/61(76) - 176/104(133)} mmHg
   RR: 16 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97 kg (admission): 90.6 kg
   Height: 72 Inch
    CVP: 8 (8 - 18)mmHg
   Total In:
                                                                  2,763 mL
                                                                    453 mL
   PO:
   TF:
                                                                    494 mL
                                                                    378 mL
   IVF:
                                                                  2,068 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,192 mL
                                                                    318 mL
   Urine:
                                                                  1,042 mL
                                                                    318 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  1,571 mL
                                                                    136 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,726 (487 - 1,726) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 6
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.32/35/115/17/-7
   Ve: 9.2 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: No acute distress, No(t) Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Clubbing
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   159 K/uL
   8.6 g/dL
   184 mg/dL
   4.9 mg/dL
   17 mEq/L
   4.1 mEq/L
   81 mg/dL
   114 mEq/L
   143 mEq/L
   26.3 %
   8.9 K/uL
        [image002.jpg]
                            [**2150-11-30**]  04:34 PM
                            [**2150-11-30**]  05:28 PM
                            [**2150-11-30**]  10:20 PM
                            [**2150-12-1**]  01:47 AM
                            [**2150-12-1**]  03:44 AM
                            [**2150-12-1**]  03:51 AM
                            [**2150-12-1**]  09:27 AM
                            [**2150-12-1**]  08:30 PM
                            [**2150-12-2**]  03:05 AM
                            [**2150-12-2**]  03:15 AM
   WBC
   7.5
   8.8
   8.9
   Hct
   26.5
   26.7
   26.3
   Plt
   153
   159
   159
   Cr
   4.9
   4.9
   4.9
   TropT
   0.21
   0.20
   TCO2
   16
   16
   15
   16
   16
   19
   19
   Glucose
   119
   139
   184
   Other labs: PT / PTT / INR:11.9/39.8/1.0, CK / CKMB /
   Troponin-T:510/11/0.20, ALT / AST:27/45, Alk Phos / T Bili:39/0.3,
   Lactic Acid:0.6 mmol/L, Albumin:3.7 g/dL, LDH:118 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.3 mg/dL, PO4:7.6 mg/dL
   Imaging: [**11-30**] ABD U/S
   1. No gallstones and no signs of cholecystitis.
   2. No hydronephrosis.
   [**11-30**] ABD/PELVIS CT
   1. Bilateral pleural effusion and bibisilar consolidation/atelectasis ,
   more
   marked on the left, consistent with pneumonia.
   2. Gallbladder distention, without specific signs for acute
   cholecystitis.
   HIDA scan is recommended if there is clinical concern for
   cholecystitis.
   3. Mesenteric stranding, a nonspecific finding that could be consistent
   with
   mesenteritis or enteritis.
   4. Right adrenal lesion consistent with an adrenal adenoma.
   Calcifications
   in right adrenal gland also noted and considerations might include
   prior
   adrenal hemorrhage; adrenal cyst would be an alternate consideration
   for the low density adrenal nodule and could be confirmed with MRI or
   contrast
   enhanced CT protocol if clinically indicated.
   5. Distal terminal ileum with circumferential fatty infiltration of the
   wall, a nonspecific finding that can be seen in setting of prior or
   chronic
   inflammation process.
   Microbiology: [**2150-12-1**] 8:29 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2150-12-1**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   [**2150-11-29**] 8:23 pm STOOL     CONSISTENCY: LOOSE      Source: Stool.
                               **FINAL REPORT [**2150-12-1**]**
      FECAL CULTURE (Final [**2150-12-1**]):    NO SALMONELLA OR SHIGELLA FOUND.
      CAMPYLOBACTER CULTURE (Final [**2150-12-1**]):    NO CAMPYLOBACTER FOUND.
   Assessment and Plan
   56M with CAD s/p CABG presenting with 3 days of vomiting and diarrhea
   admitted with shock, respiratory failure, and acute on chronic renal
   insufficiency.
   #Shock
 off pressors <24 hrs; fever, hemodynamics, and acidemia
   improving; suspect sepsis from a GI source given presenting symptoms in
   addition to possible PNA as evidenced by LLL consolidation on CT, and
   adrenal insufficiency; cardiogenic shock unlikely given TTE findings
   -IVF to maintain CVP 10-12
   -cont vanc/cefepime pending sputum, blood Cx data
   -f/u final abd/pelvis CT scan
   -cont stress-dose steroids
   -send ET sputum sample
   -f/u pending Cx data
   .
   #Panhypopituitarism
   -cont stress dose steroids (day [**4-7**])
   -cont hormone replacement
   -endocrine consult
   -SSI while on stress dose steroids
   .
   #Respiratory failure
 underlying metabolic acidosis improving
   -cont hold sedation, repeat SBT
   - extubate today
   - daily CXR
   .
   #Positive cardiac biomarkers
 enzymes trending down; most attributable
   to subendocardial/demand ischemia in the setting of obstructive CAD,
   systemic illness, hypotension, and decreased renal clearance
   -appreciate cards recs
   -cont ASA, statin
   .
   #Vomiting/diarrhea
 high fevers suggest a viral process but severity
   of disease invokes possible C. diff (despite 2 toxin assays being
   negative; NP DFA swab negative for influenza, antivirals and ABX for c.
   diff d/c
   -f/u stool Cx
   .
   #Anion gap metabolic acidosis
 improving with volume resuscitation and
   treatment of underlying sepsis
   -appreciate renal involvement
   -no acute indication for RRT
   -cont [**Name2 (NI) 4198**] bicarb, venous pH
   .
   #Acute on chronic renal insufficiency
 non-oliguric; Cr improved
   slightly; history points to pre-renal azotemia but FENa 2.6% is
   indeterminate and may reflect superimposed ATN from hypotension
   -renally dose meds
   -foley catheter, monitor UOP
   -f/u renal recs
   .
   #ETOH use - last drink [**11-26**]
   -monitor for s/sx withdrawal
   -received banana bag on admission
   -continue CIWA for now
   .
   #Hypertension
   -restart lisinopril when Cr at baseline
   .
   # FEN: tube feeds (hold for SBT trial), SSI while on stress dose
   steroids
   # PPX: SQH, H2blocker
   # ACCESS: R IJ CVL, A-line, 20g PIV
   # CODE: FULL
   # CONTACT: [**Name (NI) **] [**Name (NI) 10658**], brother, [**Telephone/Fax (1) 10659**]; [**First Name4 (NamePattern1) 1828**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 10656**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2150-12-2**] 02:39 AM 50 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2150-11-30**] 02:49 AM
   Multi Lumen - [**2150-11-30**] 05:00 AM
   20 Gauge - [**2150-11-30**] 11:21 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU